US06117973
β-Alanine (1 g, 11.2 mmol) was added to a solution of 9-phenoxyacridine (2.7 g, 10 mmol) in phenol (15 g). The suspension was stirred at 120° C. for 2 h. The solution was cooled to room temperature and poured into ether whereby the product precipitated as a yellow-green solid. It was triturated with hot ethanol, filtered and then washed with ethanol, giving crude 9-(2-carboxyethyl)aminoacridine. Yield 1.9 g (71%).

reactant | β-Alanine | 11.2 mmol, 1 g | NCCC(=O)O | C3H7NO2
reactant | 9-phenoxyacridine | 10 mmol, 2.7 g | O(C1=CC=CC=C1)C=1C2=CC=CC=C2N=C2C=CC=CC12 | C19H13NO
reactant | ether | CCOCC | C4H10O
solvent | phenol | 15 g | C1(=CC=CC=C1)O | C6H6O
product | 9-(2-carboxyethyl)aminoacridine | C(=O)(O)CCNC=1C2=CC=CC=C2N=C2C=CC=CC12 | C16H14N2O2
